US08614206B2
Methyl triphenylphosphonium bromide (3.09 g, 8.49 mmol) was suspended in toluene (25 mL). Potassium tert-butoxide (1.0 mol/L) in THF (7.07 mL, 7.074 mmol) was added and the mixture turned bright yellow. It was stirred at room temperature for 4 h, then tert-butyl N-[(4S)-1-(2-methyl-4-nitro-pyrazol-3-yl)-6-oxo-azepan-4-yl]carbamate (1000 mg, 2.83 mmol) (second eluting peak in the chiral separation) in 5 mL toluene was added. The mixture was stirred at RT for 30 min, quenched with saturated ammonium chloride, and extracted with EA 3×. The combined organic layers were concentrated and the residue was purified via silica gel column chromatography (0-100% EA/heptane) to give tert-butyl N-[(4R)-6-methylene-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]carbamate (699 mg, 70%).

reactant | Potassium tert-butoxide | 1.0 mol/L | CC(C)([O-])C.[K+]
reactant | THF | 7.074 mmol, 7.07 mL | C1CCOC1 | C4H8O
reactant | tert-butyl N-[(4S)-1-(2-methyl-4-nitro-pyrazol-3-yl)-6-oxo-azepan-4-yl]carbamate | 2.83 mmol, 1000 mg | CN1N=CC(=C1N1CC[C@@H](CC(C1)=O)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C15H23N5O5
catalyst | Methyl triphenylphosphonium bromide | 8.49 mmol, 3.09 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl N-[(4R)-6-methylene-1-(2-methyl-4-nitro-pyrazol-3-yl)azepan-4-yl]carbamate | 699 mg, 70% | C=C1C[C@H](CCN(C1)C=1N(N=CC1[N+](=O)[O-])C)NC(OC(C)(C)C)=O | C16H25N5O4
